* Simple SRAM cell in a subcircuit, double exponential current pulses
* IHP Open PDK

* Path to the PDK
.lib "D:\Spice_general\IHP-Open-PDK\ihp-sg13g2\libs.tech\ngspice\models\cornerMOSlv.lib" mos_tt

.param vdd = 1.2
.param deltat=11n deltat2=27n
*.param tochar = 1e-13  ; tochar dependency on LET not yet defined
.param tfall = 500p trise=20p  ; tau in exponent for pulse
.param let = 11
.param cdepth = 0.9
*.param Inull = 'tochar/(tfall-trise)'

* the voltage sources: 
Vdd vd gnd DC 'vdd'
Vwl wl 0 0 PULSE 0 'vdd' 45n 1n 1n 7n 1
Vbl1 bl1 0 'vdd'
Vbl2 bl2 0 0

****  SEE generator without control input, double exponential current sources
aseegen1 NULL mon [%id(xcell.n1 m1) %id(xcell.n2 m2) %id(xcell.n1 m1) %id(xcell.n2 m2)] seemod1
.model seemod1 seegen (tdelay = 11n tperiod=25n let='let' cdepth='cdepth' tfall='tfall' trise='trise')
* alternative syntax, if no current measurement required and reference nodes are GND
*aseegen1 NULL mon [%i(xcell.n1) %i(xcell.n2) %i(xcell.n1) %i(xcell.n2)] seemod1

**** the SRAM cell
Xcell bl1 bl2 wl vdd vss srcell

.subckt srcell bl1 bl2 wl vdd vss
Xnot1 n1 vdd vss n2 not1
Xnot2 n2 vdd vss n1 not1
xmo02   n2 wl bl1  vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
xmo01   n1 wl bl2  vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
.ends

**** Current measurements
Vmeasvss vss 0 0
Vmeasvdd vd vdd 0
Vm1 m1 0 0
Vm2 m2 0 0

**** Inverter cell
.subckt not1 a vdd vss z
xm01   z a     vdd     vdd sg13_lv_pmos  l=0.15u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
xm02   z a     vss     vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends

* starting condition for SRAM cell
.ic v(xcell.n2)=0 v(xcell.n1)='vdd'

* simulation command: 
.tran 100ps 120ns

*.options method=gear

.control
pre_osdi C:\Spice64\lib\ngspice\psp103_nqs.osdi
pre_osdi C:\Spice64\lib\ngspice\psp103.osdi
run
rusage
*set nolegend
set xbrushwidth=3
plot i(Vmeasvss) i(Vmeasvdd)
plot xcell.n1 xcell.n2+2 wl+4 i(vm1)*10000+6 i(vm2)*10000+8
.endc

.end
